US07687627B2
(S)-N-{3-[4-(4-(1-Cyclopropyl-1-cyanomethyl)-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
A mixture of cyclopropyl acetonitrile (28 mmol) and was treated with n-BuLi (28 mmol) at −78° C. in tetrahydrofuran and was stirred for 1 hour. Addition of (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (14.32 mmol) was done to the reaction mixture and stirred overnight. The reaction mixture was quenched with saturated ammonium chloride solution and was extracted with ethyl acetate. The organic layer was concentrated, dried and evaporated to afford a residue which was purified on silica gel column chromatography to provide title compound in 64% yield. M.P. 170-72° C. and MS (M+1)=431 (H+, 100%) for M.F.=C22H27FN4O4.

reactant | cyclopropyl acetonitrile | 28 mmol | C1(CC1)CC#N | C5H7N
reactant | n-BuLi | 28 mmol | [Li]CCCC
reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 14.32 mmol | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H20FN3O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(4-(1-Cyclopropyl-1-cyanomethyl)-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 64% yield | C1(CC1)C(C#N)C1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C22H27FN4O4
